US06939874B2
N2,N4-bis(6-Hydroxy-3-quinolinyl)-2,4-pyrimidinediamine
A mixture of 6-hydroxy-3-aminoquinoline di-hydrobromide (0.064 g, 0.2 mmol) and 2,4-dichloropyrimidine (0.148 g, 1 mmol) in IPA (1 mL) was heated at reflux overnight. The reaction was cooled to RT and a yellow solid was filtered off and washed with IPA. The solid was purified by flash chromatography in CH2Cl2/MeOH/NH4OH (90/10/1). The fractions containing the compound were combined and the solvents were removed under vacuum. The residue was purified by reverse-phase preparative HPLC (CH3CN/water/TFA) to give the bis-trifluoroacetate of the title compound as a yellow solid. MS (MH+)=397.2, Calc'd for: C22H16N6O2—396.4.

reactant | 6-hydroxy-3-aminoquinoline di-hydrobromide | 0.2 mmol, 0.064 g | Br.Br.OC=1C=C2C=C(C=NC2=CC1)N
reactant | 2,4-dichloropyrimidine | 1 mmol, 0.148 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
solvent | IPA | 1 mL | CC(C)O | C3H8O
product | N2,N4-bis(6-Hydroxy-3-quinolinyl)-2,4-pyrimidinediamine | OC=1C=C2C=C(C=NC2=CC1)NC1=NC=CC(=N1)NC=1C=NC2=CC=C(C=C2C1)O | C22H16N6O2
